US07652004B2
13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(4-((3-methyl-3,8-diazabicyclo[3.2.1]oct-8-yl)carbonyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide
Ethyl 2-(13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1,3-oxazole-4-carboxylate (35.7 mg, 0.056 mMol) was dissolved in 0.6 ml of THF in a 2 dram vial. Tetrabutylammonium hydroxide (170 uL, 0.17 mMol) as a 1M solution in methanol was added to the reaction. The reaction was capped and stirred for 3 hrs at room temperature. The reaction was partitioned between 1N hydrochloric acid and dichloromethane. The organic phase was washed with 1N hydrochloric acid and dried over sodium sulfate. The material was concentrated to dryness, dried in vacuuo and used without further purification. The hydrolysis product (0.056 mMol) was dissolved in 1 mL of DMF and TBTU (39 mg, 0.12 mMol) added. The reaction was stirred at room temperature under nitrogen for approximately 50 minutes then add DMAP (37.9 mg, 0.31 mMol) was added followed by 3-methyl-3,8-diaza-bicyclo[3.2.1]octane dihydrochloride (23 mg, 0.11 mMol). The reaction was stirred for 4 hrs at room temperature under nitrogen atmosphere until complete, then added to 20 mL of water and extracted with dichloromethane, washed organic layer with water and dry over sodium sulfate to yield 50 mg of crude product. The product was purified by Prep HPLC under the following conditions: Shimadzu preparative HPLC using Discovery VP software: % A=10% acetonitrile, 90% water, 0.1% TFA % B=90% acetonitrile, 10% water, 0.1% TFA; Initial % B=30; Final % B=100; Gradient=12 min; Runtime=20 min; Flow rate=25 ml/min; Wavelength=220 nm; Column=Waters Sunfire 19 mm×100 mm. Product retention time=6.1 min. Product fractions were concentrated in vacuuo to yield 30.5 mg of the title compound as a trifluoroacetic acid salt. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 1.09-1.30 (m, 1H) 1.31-1.61 (m, 3H) 1.68-1.85 (m, 2H) 1.87-2.20 (m, 5H) 2.26-2.44 (m, 2H) 2.51-2.66 (m, 1H) 2.77-2.90 (m, 1H) 2.91-3.01 (m, 3H) 3.04 (s, 6H) 3.12 (d, J=11.90 Hz, 1H) 3.23 (d, J=11.60 Hz, 1H) 3.78 (d, J=12.21 Hz, 1H) 3.94 (s, 3H) 4.24 (d, J=13.12 Hz, 1H) 4.43 (d, J=14.34 Hz, 1H) 5.01 (d, J=5.80 Hz, 1H) 5.13-5.47 (m, 1H) 5.85 (d, J=14.04 Hz, 1H) 6.02 (s, 1H) 7.03 (d, J=2.75 Hz, 1H) 7.12 (dd, J=8.70, 2.59 Hz, 1H) 7.25-7.32 (m, 1H) 7.56 (d, J=8.55 Hz, 1H) 7.69 (s, 1H) 7.88 (d, J=8.24 Hz, 1H) 8.18 (s, 1H) 8.28 (s, 1H) 8.52 (s, 1H) 11.72 (s, 1H); LC-MS: Shimadzu Analytical HPLC using Discovery VP software: % A=5% acetonitrile, 95% water, 10 mmol Ammonium Acetate % B=95% acetonitrile, 5% water, 10 mmol Ammonium Acetate; Initial % B=0; Final % B=100; Gradient=2 min; Runtime=3 min; Flow rate=5 ml/min; Wavelength=220 nm; Column=Phenomenex Luna 3.0 mm×50 mm S10 Retention Time=1.7 min, MS m/z 711 (MH−), m/z 713 (MH+).

reactant | Ethyl 2-(13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1,3-oxazole-4-carboxylate | 0.056 mMol, 35.7 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C=2OC=C(N2)C(=O)OCC)C=C(C=C1)OC)C(NS(=O)(=O)N(C)C)=O | C33H36N4O7S
reactant | Tetrabutylammonium hydroxide | 0.17 mMol, 170 uL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | TBTU | 0.12 mMol, 39 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-methyl-3,8-diaza-bicyclo[3.2.1]octane dihydrochloride | 0.11 mMol, 23 mg | Cl.Cl.CN1CC2CCC(C1)N2
solvent | THF | 0.6 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.31 mMol, 37.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 20 mL | O | H2O
product | 13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-6-(4-((3-methyl-3,8-diazabicyclo[3.2.1]oct-8-yl)carbonyl)-1,3-oxazol-2-yl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 30.5 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C=2OC=C(N2)C(=O)N2C3CN(CC2CC3)C)C=C(C=C1)OC)C(=O)NS(=O)(=O)N(C)C | C38H44N6O6S
